US06448266B1
3-[3-(tert-Butoxycarbonylamino)-1-fluorocyclobutan-3-yl]pyrrolidine (Isomer A)
A 145 mg (0.416 mmol) portion of 1-benzyl-3-[3-(tert-butoxycarbonylamino)-1-fluorocyclobutan-3-yl]pyrrolidine (Isomer A) was dissolved in 10 ml of ethanol to which was subsequently added 150 mg of 10% palladium on carbon catalyst. The thus prepared mixture was stirred for 1.5 hours under irradiation of light and under a hydrogen pressure of 3.5 atmospheres. After removal of the catalyst by filtration, the solvent was evaporated under a reduced pressure to give 117 mg (quantitative) of the title compound. The thus obtained compound was used in the following reaction without purification.

reactant | 1-benzyl-3-[3-(tert-butoxycarbonylamino)-1-fluorocyclobutan-3-yl]pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)C1(CC(C1)F)NC(=O)OC(C)(C)C | C20H29FN2O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 3-[3-(tert-Butoxycarbonylamino)-1-fluorocyclobutan-3-yl]pyrrolidine | C(C)(C)(C)OC(=O)NC1(CC(C1)F)C1CNCC1 | C13H23FN2O2
